US04730005
(a) 2-undecyloxybenzaldehyde
To a stirred suspension of sodium hydride (10.0 mmoles), which was prewashed with petroleum ether, in sieve dried dimethylformamide (10 ml) was added dropwise a solution of salicylaldehyde (10.1 mmoles) in dimethylformamide (1 ml). To the reaction mixture was then added undecyl bromide (10.0 mmoles) and the mixture stirred for 16 hours at ambient temperature under nitrogen. The reaction mixture was taken up in hexane (50 ml) and washed with 10 percent sodium hydroxide (2×50 ml) and saturated sodium chloride (50 ml). The organic phase was dried over anhydrous magnesium sulfate and charcoal. Evaporation of the volatiles yielded a colorless liquid which was purified by flash chromatography over silica gel with 2 percent ethyl acetate in hexane as eluant to afford the desired product as an oil.

reactant | sodium hydride | 10.0 mmoles | [H-].[Na+]
reactant | salicylaldehyde | 10.1 mmoles | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | undecyl bromide | 10.0 mmoles | C(CCCCCCCCCC)Br | C11H23Br
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | hexane | 50 ml | CCCCCC | C6H14
product | 2-undecyloxybenzaldehyde | C(CCCCCCCCCC)OC1=C(C=O)C=CC=C1 | C18H28O2
